//======================================================================
// RRAM_DC_AC_TRAN.scs
//======================================================================
// Spectre netlist to test the RRAM compact model (RRAM.va)
//
// Version: 1.0.0
// Tested on: Cadence Spectre version 7.2.0 64bit
//                        and version 15.1.0 64bit
//
// Author: Tianshi Wang [tianshi@berkeley.edu]
// Last Modified: Mar 25, 2017

simulator lang=spectre

ahdl_include "../models/RRAM.va"

saveOptions options save=all

Vin (in 0) vsource dc=1 mag=1 type=pulse val0=-1 val1=1 delay=1u rise=4m fall=4m width=1u period=8m+2u
X1 (in 0) RRAM

// DC analysis
dc dc dev=Vin start=-1 stop=1 lin=100 

// AC analysis
ac ac start=100 stop=1G dec=20

// transient simulation
tran tran stop=8m 
