//======================================================================
// hys_template_DC_AC_TRAN.scs
//======================================================================
// Spectre netlist to test the hys_template compact model (hys_template.va)
//
// Version: 1.0.0
// Tested on: Cadence Spectre version 7.2.0 64bit
//                        and version 15.1.0 64bit
//
// Author: Tianshi Wang [tianshi@berkeley.edu]
// Last Modified: Mar 25, 2017

simulator lang=spectre

ahdl_include "../models/hys_template.va"

saveOptions options save=all

V1 (1 0) vsource dc=1 type=sine sinedc=0 ampl=0.7 freq=1k
X1 (1 0) hys_template

// DC analysis
dc1 dc dev=V1 start=-1 stop=1 lin=100 
dc2 dc dev=V1 start=1 stop=-1 lin=100 

// AC analysis
ac ac start=10 stop=10k dec=20

// transient simulation
tran tran stop=2m 
